US07897607B2
4-Bromo-1-(2,4-dimethylphenyl)-1H-imidazole-5-carboxylic acid
To 1.88 g (5.8 mmol) of ethyl 4-bromo-1-(2,4-dimethylphenyl)-1H-imidazole-5-carboxylate in 30 mL of ethanol was added 3.0 mL (18 mmol) of 6N KOH and the resulting mixture was stirred for 3 h at room temperature. Volatiles were removed in vacuo, the residue was diluted with water, washed with ether and acidified with 1N HCl. The resulting precipitate was collected by filtration and dried to give 1.54 g (90%) of the title compound as a white powder.

reactant | ethyl 4-bromo-1-(2,4-dimethylphenyl)-1H-imidazole-5-carboxylate | 5.8 mmol, 1.88 g | BrC=1N=CN(C1C(=O)OCC)C1=C(C=C(C=C1)C)C | C14H15BrN2O2
reactant | KOH | 18 mmol, 6N, 3.0 mL | [OH-].[K+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-Bromo-1-(2,4-dimethylphenyl)-1H-imidazole-5-carboxylic acid | 1.54 g, 90% | BrC=1N=CN(C1C(=O)O)C1=C(C=C(C=C1)C)C | C12H11BrN2O2
